US08349880B2
Step M (3): Aqueous ammonium hydroxide (5 mL) was added to a solution of 2,3-difluoro-5-nitrophenyl ethyl carbonate (250 mg, 1.0 mol) in EtOAc (4 mL). The reaction mixture was quenched with 1 N HCl. The mixture was diluted with water and extracted with EtOAc. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to afford 2,3-difluoro-5-nitrophenol (150 mg, 85% yield).

reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
reactant | 2,3-difluoro-5-nitrophenyl ethyl carbonate | 1.0 mol, 250 mg | C(OC1=C(C(=CC(=C1)[N+](=O)[O-])F)F)(OCC)=O | C9H7F2NO5
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
product | 2,3-difluoro-5-nitrophenol | 150 mg, 85% yield | FC1=C(C=C(C=C1F)[N+](=O)[O-])O | C6H3F2NO3
